US08455646B2
Preparation of phenyl-(3-trifluoromethoxy-phenylamino)-acetic acid hydrochloride (I40)
Ethyl 2-bromo-2-phenylacetate (400 mg, 1.64 mmol), 3-(trifluoromethoxy)aniline (0.33 mL, 2.47 mmol), and DIPEA (0.43 mL, 2.47 mmol) are dissolved in acetonitrile (5 mL) and heated under MW irradiation at 100° C. for 1 hour (Conversion complete by UPLC/MS-UV). Water (5 mL) and lithium hydroxide hydrate (207 mg, 4.94 mmol) are directly added and the resulting mixture is stirred at RT for 1 hour. Then 4M HCl in dioxane is added until pH 1, the organic solvents are evaporated and the resulting crude oil is purified by filtration through a silica pad using DCM/MeOH=9/1 as the eluent. Intermediate 188 is collected as a brown oil (569 mg, quantitative yield).

reactant | Ethyl 2-bromo-2-phenylacetate | 1.64 mmol, 400 mg | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
reactant | 3-(trifluoromethoxy)aniline | 2.47 mmol, 0.33 mL | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
reactant | DIPEA | 2.47 mmol, 0.43 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | lithium hydroxide hydrate | 4.94 mmol, 207 mg | O.[OH-].[Li+]
reactant | HCl | 4M | Cl | ClH
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | Water | 5 mL | O | H2O
product | phenyl-(3-trifluoromethoxy-phenylamino)-acetic acid hydrochloride | 569 mg, quantitative yield | Cl.C1(=CC=CC=C1)C(C(=O)O)NC1=CC(=CC=C1)OC(F)(F)F | InChI=1S/C15H12F3NO3.ClH/c16-15(17,18)22-12-8-4-7-11(9-12)19-13(14(20)21)10-5-2-1-3-6-10;/h1-9,13,19H,(H,20,21);1H
